US06004959
N,N-diethyl-2'-isopropoxy-4-methoxy-biphenyl-2-carboxamide
Prepare a solution of 2'-isopropoxy-4-methoxy-biphenyl-2-carboxylic acid (4.80 g, 0.0168 mole) in 125 mL methylene chloride (dichloromethane). Under an argon atmosphere, at ambient conditions, add thionyl chloride (2.99 g, 0.0356 mole, 1.835 mL). Continue stirring for about 45 minutes, observing the color change to light brown. Cool the reaction mixture to 0° C. and dropwise add diethylamine (22.00 mL, 15.627 g, 0.21 mole), ensuring the temperature does not exceed 25° C. Continue stirring for 30 minutes after addition of the amine is complete. Dilute the reaction to 150 mL of methylene chloride and wash the organic phase with water, separate and wash twice with 100 mL 5% sodium bicarbonate. Separate and wash with brine (sat'd NaCl) and dry over magnesium sulfate. Filter through celite and evaporate on a rotary evaporator to give a viscous light brown liquid. Chromatography (30% ethyl acetate: 70% hexane) gives a pale yellow liquid. Place under near vacuum to give a waxy solid of the title compound (3.80 g, 66%).

reactant | 2'-isopropoxy-4-methoxy-biphenyl-2-carboxylic acid | 0.0168 mole, 4.80 g | C(C)(C)OC1=C(C=CC=C1)C=1C(=CC(=CC1)OC)C(=O)O | C17H18O4
reactant | thionyl chloride | 0.0356 mole, 1.835 mL, 2.99 g | S(=O)(Cl)Cl | Cl2OS
reactant | diethylamine | 0.21 mole, 22.00 mL, 15.627 g | C(C)NCC | C4H11N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 125 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | hexane | CCCCCC | C6H14
product | N,N-diethyl-2'-isopropoxy-4-methoxy-biphenyl-2-carboxamide | 3.80 g, 66% | C(C)N(C(=O)C=1C(=CC=C(C1)OC)C1=C(C=CC=C1)OC(C)C)CC | C21H27NO3
